US06090843
[6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl][4-(Tetrahydropyran-2-yl)methoxyphenyl]methanone
[6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl](4-hydroxyphenyl)methanone (0.39 g, 1.00 mmol) and 2-hydroxymethyltetrahydropyran (174 mg, 1.5 mmol) were converted to the title compound by the procedure of Example 1 using 390 mg (1.5 mmol) of triphenylphosphine and 0.24 mL (1.5 mmol) of diethyl azodicarboxylate the only difference being that the total reaction time was 3 hours giving a thick syrup.

reactant | [6-Methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl](4-hydroxyphenyl)methanone | 1.00 mmol, 0.39 g | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)O)C2=CC=C(C=C2)OC)C1 | C23H18O4S
reactant | 2-hydroxymethyltetrahydropyran | 1.5 mmol, 174 mg | OCC1OCCCC1 | C6H12O2
reactant | triphenylphosphine | 1.5 mmol, 390 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.5 mmol, 0.24 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | [6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl][4-(Tetrahydropyran-2-yl)methoxyphenyl]methanone | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCC2OCCCC2)C2=CC=C(C=C2)OC)C1 | C29H28O5S
